### PR TITLE
chore: add theorems for n`bv_InstCombineShift__279`

### LINKED ISSUE #604: b >>> a.toNat <<< a.toNat = b &&& BitVec.allOnes w <<< a.toNat
This will proof bitvec_InstCombineShift__279 in AliveStatements.

### PR DESCRIPTION
**Pull request by luisacicolini**

### CODE REVIEW

File: SSA/Projects/InstCombine/ForLean.lean [hunk 1]
```diff
@@ -569,6 +569,31 @@ theorem xor_allOnes_sshiftRight_xor_allOnes {a b : BitVec w} :
...
+    ext i
+    simp
+    rw [Nat.add_comm]
+    by_cases hw : w = 0
+    · simp [hw]
+    · by_cases h : i.val = 0
+      · simp [h]
+      · rw [Nat.sub_add_cancel]
+        · simp [h]
+        · bv_omega
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/ForLean.lean]:
```suggestion
      · rw [Nat.sub_add_cancel (by omega]
        simp [h]
```

File: SSA/Projects/InstCombine/ForLean.lean [hunk 2]
```diff
@@ -569,6 +569,31 @@ theorem xor_allOnes_sshiftRight_xor_allOnes {a b : BitVec w} :
...
+  case zero =>
+    simp [bv_toNat]
+  case succ n ih =>
+    rw [BitVec.shiftLeft_add]
+    rw [Nat.add_comm]
+    rw [BitVec.shiftRight_add]
+    rw [ih]
+    rw [Nat.add_comm]
+    rw [BitVec.shiftLeft_add]
+    rw [BitVec.shiftLeft_and_distrib]
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/ForLean.lean]: Can you fold these together.

File: SSA/Projects/InstCombine/ForLean.lean [hunk 3]
```diff
@@ -569,6 +569,30 @@ theorem xor_allOnes_sshiftRight_xor_allOnes {a b : BitVec w} :
     rw [ih]
     rw [BitVec.sshiftRight_add]
 
+@[simp]
+theorem shiftLeft_shiftRight (x : BitVec w) (n : Nat):
+  x >>> n <<< n = x &&& BitVec.allOnes w <<< n := by
+  induction n generalizing x
+  case zero =>
+    simp [bv_toNat]
+  case succ n ih =>
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/ForLean.lean]:
```suggestion
    ext; simp
  case succ n ih =>
```

This is a bit simpler.

File: SSA/Projects/InstCombine/ForLean.lean [hunk 4]
```diff
@@ -569,6 +569,26 @@ theorem xor_allOnes_sshiftRight_xor_allOnes {a b : BitVec w} :
...
+    rw [BitVec.shiftLeft_add, Nat.add_comm, BitVec.shiftRight_add]
+    rw [ih]
+    rw [Nat.add_comm, BitVec.shiftLeft_add, BitVec.shiftLeft_and_distrib]
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/ForLean.lean]:
```suggestion
    rw [BitVec.shiftLeft_add, Nat.add_comm, BitVec.shiftRight_add, ih, Nat.add_comm,
      BitVec.shiftLeft_add, BitVec.shiftLeft_and_distrib]
```

File: SSA/Projects/InstCombine/ForLean.lean [hunk 5]
```diff
@@ -569,6 +569,26 @@ theorem xor_allOnes_sshiftRight_xor_allOnes {a b : BitVec w} :
...
+    ext i
+    simp
+    rw [Nat.add_comm]
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/ForLean.lean]: Turn this into a `simp only`

File: SSA/Projects/InstCombine/ForLean.lean [hunk 6]
```diff
@@ -569,6 +569,26 @@ theorem xor_allOnes_sshiftRight_xor_allOnes {a b : BitVec w} :
...
+    by_cases hw : w = 0
+    · simp [hw]
+    · by_cases h : i.val = 0
+      · simp [h]
+      · rw [Nat.sub_add_cancel (by omega)]
+        · simp [h]
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/ForLean.lean]:
```suggestion
      · rw [Nat.sub_add_cancel (by omega)]
        simp [h]
```

File: SSA/Projects/InstCombine/ForLean.lean [hunk 7]
```diff
@@ -569,6 +569,26 @@ theorem xor_allOnes_sshiftRight_xor_allOnes {a b : BitVec w} :
     rw [ih]
     rw [BitVec.sshiftRight_add]
 
+@[simp]
+theorem shiftLeft_shiftRight (x : BitVec w) (n : Nat):
+  x >>> n <<< n = x &&& BitVec.allOnes w <<< n := by
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/ForLean.lean]:
```suggestion
theorem shiftLeft_shiftRight {x : BitVec w} {n : Nat}:
  x >>> n <<< n = x &&& BitVec.allOnes w <<< n := by
```

File: SSA/Projects/InstCombine/ForLean.lean (hunk 5 above)
Comment (luisacicolini) [reply SSA/Projects/InstCombine/ForLean.lean]: I tried but it breaks, I'm afraid that's possible since `Nat.add_comm` has no `@[simp]`?

File: SSA/Projects/InstCombine/ForLean.lean [hunk 8]
```diff
@@ -569,6 +569,25 @@ theorem xor_allOnes_sshiftRight_xor_allOnes {a b : BitVec w} :
...
+  induction n generalizing x
+  case zero =>
+    ext; simp
+  case succ n ih =>
+    rw [BitVec.shiftLeft_add, Nat.add_comm, BitVec.shiftRight_add, ih,
+       Nat.add_comm, BitVec.shiftLeft_add, BitVec.shiftLeft_and_distrib]
+    ext i
+    simp
+    rw [Nat.add_comm]
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/ForLean.lean]:
```suggestion
    simp only [getLsbD_and, getLsbD_shiftLeft, Fin.is_lt, decide_True, Nat.lt_one_iff,
      Bool.true_and, getLsbD_ushiftRight, getLsbD_allOnes]
    rw [Nat.add_comm]
```

You get this just by writing `simp?` and then clicking on the blue info text on the right.

**Review by tobiasgrosser — APPROVED** [review]
LGTM. Feel invited to merge. 🎉
